US04197241
1-Methyl-3-(3-oxocyclohexen-1-yl)-2-piperidone
n-Butyllithium (1.4 M in hexane, 120 ml) was treated at 20° C. under dry nitrogen with diisopropylamine (27 ml, 19.2 g) in dry ether (25 ml). The mixture was stirred for 10 minutes at 20° C. after completion of the addition and then 1-methyl-2-piperidone (20 g) in ether (25 ml) was added dropwise over 10 minutes. The mixture was stirred for a further 10 minutes, and then 3-isopropoxy-2-cyclohexenone (19.4 g) in ether (25 ml) was added dropwise over 10 minutes. The mixture was stirred at 20° C. for a further 2 hours and was then hydrolysed by the addition, dropwise at first, of a mixture of conc. hydrochloric acid (50 ml) and water (50 ml). The mixture was cooled in a water bath during the acidification to moderate the reaction. The mixture was cooled to room temperature (from 35° C.) and the organic phase was separated and dried (MgSO4). Removal of the solvent left a mobile yellow oil (0.63 g). The aqueous phase was extracted exhaustively with chloroform (10×40 ml) and the combined extracts were washed with water (100 ml), and saturated aqueous sodium chloride solution (100 ml), and dried (MgSO4). Evaporation left a pale green oil (25.79 g). The two fractions were combined and distilled, giving two fractions A, bp<120° C./1 mm (4.6 g), colourless, mobile liquid; and B, bp 150° C.-164° C./0.07 mm (14.46 g), yellow oil solidifying to a light yellow mass, mp 41°-62° C. Fraction A was identified by IR as slightly impure 1-methyl-2-piperidone (23% recovery), while fraction B was identified by IR and NMR as the title compound.

reactant | n-Butyllithium | 1.4 M, 120 ml | C(CCC)[Li]
reactant | diisopropylamine | 27 ml, 19.2 g | C(C)(C)NC(C)C | C6H15N
reactant | 1-methyl-2-piperidone | 20 g | CN1C(CCCC1)=O | C6H11NO
reactant | 3-isopropoxy-2-cyclohexenone | 19.4 g | C(C)(C)OC1=CC(CCC1)=O | C9H14O2
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 1-Methyl-3-(3-oxocyclohexen-1-yl)-2-piperidone | CN1C(C(CCC1)C1=CC(CCC1)=O)=O | C12H17NO2
